US06380218B1
4-Oxo-cyclohexanecarbonitrile
A solution of 1,4-Dioxa-spiro[4.5]decane-8-carbonitrile (2.0 grams, 12.8 mmole) and 2 N hydrochloric acid (21.0 grams, 42.0 mmole) in tetrahydrofuran (30 ml) at room temperature was stirred over night. The mixture was diluted with ethyl acetate, washed with water and brine, dried over MgSO4, filtered, and concentrated to an oil which was purified via flash chromatography on silica using 10% ethyl acetate/hexane as eluent to give an oil (0.800 g). MW 123.15.

reactant | 1,4-Dioxa-spiro[4.5]decane-8-carbonitrile | 12.8 mmole, 2.0 grams | O1CCOC12CCC(CC2)C#N | C9H13NO2
reactant | hydrochloric acid | 42.0 mmole, 2 N, 21.0 grams | Cl | ClH
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-Oxo-cyclohexanecarbonitrile | 0.800 g | O=C1CCC(CC1)C#N | C7H9NO
